US09227963B2
N-(3-bromo-2-methylphenyl)-N-methyltricyclo[3.3.1.13,7]decane-1-carboxamide
3-Bromo-N,2-dimethylaniline (300 mg) and diisopropylethylamine (581 mg) were added to 1,2-dichloroethane (5 mL). 1-Adamantanecarbonyl chloride (328 mg) was added and the solution was heated at 50° C. for three days. The solution was diluted with 70% ethyl acetate (hexanes), washed three times with 1M aqueous HCl, washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated. The crude material was purified by flash column chromatography on silica gel using 10% ethyl acetate (hexanes) to yield the title compound.

reactant | 3-Bromo-N,2-dimethylaniline | 300 mg | BrC=1C(=C(NC)C=CC1)C | C8H10BrN
reactant | diisopropylethylamine | 581 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
reactant | 1-Adamantanecarbonyl chloride | 328 mg | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-bromo-2-methylphenyl)-N-methyltricyclo[3.3.1.13,7]decane-1-carboxamide | BrC=1C(=C(C=CC1)N(C(=O)C12CC3CC(CC(C1)C3)C2)C)C | C19H24BrNO
